US08293917B2
To a solution of 1-(2-bromo-thiazol-5-yl)-propan-1-one (75 mg, 0.34 mmol) in dimethyl sulfoxide (3 mL) was added the sodium methylsulfinate (41 mg, 0.34 mmol) followed by copper iodide (65 mg, 0.34 mmol). The mixture was heated in a microwave at 120° C. for 1 h. The reaction was diluted with ethyl acetate (20 mL) and washed with sat. sodium bicarbonate solution (120 ml) and brine (10 ml). The aqueous phase was extracted with ethyl acetate (2×10 mL). The combined organic extracts were dried over magnesium sulfate, filtered and concentrated to give 1-(2-methanesulfonyl-thiazol-5-yl)-propan-1-one (42 mg, 56%) that was used without further purification.

reactant | 1-(2-bromo-thiazol-5-yl)-propan-1-one | 0.34 mmol, 75 mg | BrC=1SC(=CN1)C(CC)=O | C6H6BrNOS
reactant | sodium methylsulfinate | 0.34 mmol, 41 mg | CS(=O)[O-].[Na+]
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.34 mmol, 65 mg | [Cu](I)I
product | 1-(2-methanesulfonyl-thiazol-5-yl)-propan-1-one | 42 mg, 56% | CS(=O)(=O)C=1SC(=CN1)C(CC)=O | C7H9NO3S2
